US07635715B2
Step F: Preparation of 1,1-Dimethylethyl N-((6-chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate
A mixture of ethyl 6-chloro-4-ethyl-1-hydroxy-4-methyl-3-oxo-naphthalene-2-carboxylate (0.5 g, 2 mmol), and tert-butyl 2-aminoacetate hydrochloride (0.4 g, 2 mmol) in 5 mL dioxane, was treated with N-ethyl-N-isopropylpropan-2-amine (0.6 g, 5 mmol). The resulting mixture was warmed to 95° C. and stirred for 4 hours, M+Na=416, M−1=392. The mixture was then cooled to room temperature and concentrated in vacuo. The crude product was purified by column chromatography eluting with 10-20% EtOAc/hexane to give 0.44 g of the title compound as a white yellow solid. MS m/e=416 (M+Na)+.

reactant | ethyl 6-chloro-4-ethyl-1-hydroxy-4-methyl-3-oxo-naphthalene-2-carboxylate | 2 mmol, 0.5 g | ClC=1C=C2C(C(C(=C(C2=CC1)O)C(=O)OCC)=O)(C)CC | C16H17ClO4
reactant | tert-butyl 2-aminoacetate hydrochloride | 2 mmol, 0.4 g | Cl.NCC(=O)OC(C)(C)C
reactant | N-ethyl-N-isopropylpropan-2-amine | 5 mmol, 0.6 g | C(C)N(C(C)C)C(C)C | C8H19N
solvent | dioxane | 5 mL | O1CCOCC1 | C4H8O2
product | 1,1-Dimethylethyl N-((6-chloro-1-ethyl-4-hydroxy-1-methyl-2-oxo-naphthalen-3-yl)carbonyl)glycinate | 0.44 g | ClC=1C=C2C(=C(C(C(C2=CC1)(C)CC)=O)C(=O)NCC(=O)OC(C)(C)C)O | C20H24ClNO5
